US09101616B2
Step-2: (5-(cyclopropylmethoxy)pyridin-2-yl)methanol
To a solution of 5-(cyclopropylmethoxy)-2-methylpyridine (3.9 g, 24 mmol) in dichloromethane (50 mL) was added 3-chlorobenzoperoxoic acid (7.6 g, 32 mmol) at room temperature. After being stirred at room temperature for 1 hour, the mixture was poured into saturated aqueous sodium bicarbonate solution. The organic phase was extracted with dichloromethane (twice). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was dissolved in acetic anhydride (50 mL) and the mixture was stirred at 100° C. for 2 hours. Half of the solvent was removed under the reduced pressure. The residue was dissolved into methanol (50 mL). Potassium carbonate (20 g, 143 mmol) was added to the mixture carefully. The mixture was stirred at room temperature for 1 hour. The mixture was poured into H2O, and the aqueous phase was extracted with ethyl acetate (twice). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (1:1 (v/v)) to give 4.5 g (quantitative yield) of the title compound as a brown oil:

reactant | 5-(cyclopropylmethoxy)-2-methylpyridine | 24 mmol, 3.9 g | C1(CC1)COC=1C=CC(=NC1)C | C10H13NO
reactant | 3-chlorobenzoperoxoic acid | 32 mmol, 7.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Potassium carbonate | 143 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | H2O | O | H2O
product | (5-(cyclopropylmethoxy)pyridin-2-yl)methanol | 4.5 g, quantitative yield | C1(CC1)COC=1C=CC(=NC1)CO | C10H13NO2
